US04250085
In a manner analogous to that described in Example 5(A)(iii), from the monobenzylamine salt of (1R)-1-[(N-benzyloxycarbonyl-sarcosyl-L-norvalyl-L-alanyl)-amino]-ethylphosphonic acid there was obtained (1R)-1-(N-sarcosyl-L-norvalyl-L-alanylamino)-ethylphosphonic acid of melting point 277°-279° C. (decomposition); [α]D20 =-96.0°; [α]36520 =-348° (c=0.51% in water).

reactant | monobenzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | (1R)-1-[(N-benzyloxycarbonyl-sarcosyl-L-norvalyl-L-alanyl)-amino]-ethylphosphonic acid | C(C1=CC=CC=C1)OC(=O)N(C)CC(=O)N[C@@H](CCC)C(=O)N[C@@H](C)C(=O)N[C@@H](C)P(O)(O)=O | C21H33N4O8P
product | (1R)-1-(N-sarcosyl-L-norvalyl-L-alanylamino)-ethylphosphonic acid | N(C)CC(=O)N[C@@H](CCC)C(=O)N[C@@H](C)C(=O)N[C@@H](C)P(O)(O)=O | C13H27N4O6P
